US07745641B2
2-Bromo-N-(1-methyl-1-phenylethyl)nicotinamide (500 mg, 1.57 mmol) was dissolved in THF (20 mL), and the solution was added with LDA-heptane/THF/ethylbenzene solution (2.0 mol/L, 3.5 mL, 7.1 mmol) by drops at −78° C. for 25 minutes under argon atmosphere, followed by stirring at the same temperature for 1.6 hours. Then, the mixture was added with DMF (0.267 mL, 3.45 mmol) and warmed from −78° C. to room temperature over 1 hour. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (chloroform/methanol=100/1 to 97/3) to obtain 4-bromo-1-hydroxy-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one (138 mg, yield 25%).

reactant | 2-Bromo-N-(1-methyl-1-phenylethyl)nicotinamide | 1.57 mmol, 500 mg | BrC1=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC=N1 | C15H15BrN2O
reactant | LDA heptane THF ethylbenzene | 7.1 mmol, 2.0 mol/L, 3.5 mL | [Li+].CC(C)[N-]C(C)C.CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | DMF | 3.45 mmol, 0.267 mL | CN(C)C=O | C3H7NO
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-bromo-1-hydroxy-2-(1-methyl-1-phenylethyl)-1,2-dihydropyrrolo[3,4-c]pyridine-3-one | 138 mg, yield 25% | BrC1=NC=CC2=C1C(N(C2O)C(C)(C2=CC=CC=C2)C)=O | C16H15BrN2O2
